US07432280B2
Preparation 1: 1,1-Dimethylethyl (3S)-3-aminopiperidine-1-carboxylate
Methanesulfonyl chloride (9.56 mL, 124 mmol) was added dropwise over 10 minutes to a stirred solution of 1,1-dimethylethyl (3R)-3-hydroxypiperidine-1-carboxylate (20.7 g, 103 mmol) and triethylamine (21.5 mL, 154 mmol) in dichloromethane (300 mL) at 0° C. After stirring for 3 hour at 0° C., the reaction was quenched by addition of water. The organic phase was washed with brine, dried (MgSO4), filtered and evaporated in vacuo to give an oil. This was purified by flash chromatography on silica, eluting with ethyl acetate/cyclohexane (20:80 to 50:50), to give the title compound as an oil.

reactant | Methanesulfonyl chloride | 124 mmol, 9.56 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1,1-dimethylethyl (3R)-3-hydroxypiperidine-1-carboxylate | 103 mmol, 20.7 g | O[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | triethylamine | 154 mmol, 21.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl (3S)-3-aminopiperidine-1-carboxylate | N[C@@H]1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
